US08236841B2
4,4-Dimethyl-1-(thiophen-3-yl)-1-penten-3-one
3-Thiophene carbaldehyde (500 μL, 5.71 mmol) and 3,3-dimethylbutan-2-one (710 μL, 5.71 mmol) were dissolved in methanol (5.0 mL). To this was added sodium methoxide (340 mg, 6.29 mmol), and then the mixture was stirred under reflux overnight. After addition of water, the mixture was extracted with ethyl acetate. The organic phase was washed with saturated brine and dried over anhydrous sodium sulfate, and then the solvent was evaporated off in vacuo. The residue was purified by column chromatography on silica gel (hexane/ethyl acetate 95/5) to give the title compound (904 mg, 4.65 mmol, yield 81%).

reactant | 3-Thiophene carbaldehyde | 5.71 mmol, 500 μL | S1C=C(C=C1)C=O | C5H4OS
reactant | 3,3-dimethylbutan-2-one | 5.71 mmol, 710 μL | CC(C(C)=O)(C)C | C6H12O
reactant | sodium methoxide | 6.29 mmol, 340 mg | C[O-].[Na+]
reactant | water | O | H2O
solvent | methanol | 5.0 mL | CO | CH4O
product | 4,4-Dimethyl-1-(thiophen-3-yl)-1-penten-3-one | 4.65 mmol, 904 mg, yield 81% | CC(C(C=CC1=CSC=C1)=O)(C)C | C11H14OS
